* C:\FOSSEE\eSim\library\SubcircuitLibrary\Subcircuit_SN74LS11\Subcircuit_SN74LS11.cir

* EESchema Netlist Version 1.1 (Spice format) creation date: 02/10/25 19:11:48

* To exclude a component from the Spice Netlist add [Spice_Netlist_Enabled] user FIELD set to: N
* To reorder the component spice node sequence add [Spice_Node_Sequence] user FIELD and define sequence: 2,1,0

* Sheet Name: /
R1  Net-_R1-Pad1_ Net-_Q1-Pad2_ 20k		
R2  Net-_R1-Pad1_ Net-_Q1-Pad1_ 10k		
Q1  Net-_Q1-Pad1_ Net-_Q1-Pad2_ Net-_D1-Pad1_ eSim_NPN		
Q2  Net-_Q2-Pad1_ Net-_Q1-Pad1_ Net-_C1-Pad1_ eSim_NPN		
Q4  Net-_Q4-Pad1_ Net-_Q2-Pad1_ Net-_Q4-Pad3_ eSim_NPN		
R4  Net-_R1-Pad1_ Net-_Q2-Pad1_ 8k		
R7  Net-_R1-Pad1_ Net-_Q4-Pad1_ 120		
U2  GNDPWR Net-_U1-Pad1_ zener		
U3  GNDPWR Net-_U1-Pad2_ zener		
U4  GNDPWR Net-_U1-Pad3_ zener		
U7  Net-_Q1-Pad2_ Net-_U1-Pad3_ zener		
U6  Net-_Q1-Pad2_ Net-_U1-Pad2_ zener		
D1  Net-_D1-Pad1_ GNDPWR eSim_Diode		
C1  Net-_C1-Pad1_ Net-_C1-Pad2_ 10pF		
R3  Net-_C1-Pad1_ Net-_Q3-Pad2_ 1.5k		
R5  Net-_C1-Pad1_ Net-_Q3-Pad1_ 3k		
Q3  Net-_Q3-Pad1_ Net-_Q3-Pad2_ GNDPWR eSim_NPN		
Q6  Net-_C1-Pad2_ Net-_C1-Pad1_ GNDPWR eSim_NPN		
U9  Net-_R6-Pad2_ Net-_Q2-Pad1_ zener		
R6  Net-_C1-Pad2_ Net-_R6-Pad2_ 5k		
Q5  Net-_Q4-Pad1_ Net-_Q4-Pad3_ Net-_C1-Pad2_ eSim_NPN		
U1  Net-_U1-Pad1_ Net-_U1-Pad2_ Net-_U1-Pad3_ Net-_U1-Pad4_ Net-_U1-Pad5_ Net-_U1-Pad6_ Net-_C1-Pad2_ Net-_R1-Pad1_ GNDPWR Net-_U1-Pad10_ Net-_U1-Pad11_ Net-_U1-Pad12_ Net-_C2-Pad2_ Net-_C3-Pad2_ PORT		
U5  Net-_Q1-Pad2_ Net-_U1-Pad1_ zener		
R15  Net-_R1-Pad1_ Net-_Q13-Pad2_ 20k		
R16  Net-_R1-Pad1_ Net-_Q13-Pad1_ 10k		
Q13  Net-_Q13-Pad1_ Net-_Q13-Pad2_ Net-_D3-Pad1_ eSim_NPN		
Q14  Net-_Q14-Pad1_ Net-_Q13-Pad1_ Net-_C3-Pad1_ eSim_NPN		
Q16  Net-_Q16-Pad1_ Net-_Q14-Pad1_ Net-_Q16-Pad3_ eSim_NPN		
R18  Net-_R1-Pad1_ Net-_Q14-Pad1_ 8k		
R21  Net-_R1-Pad1_ Net-_Q16-Pad1_ 120		
U16  GNDPWR Net-_U1-Pad10_ zener		
U17  GNDPWR Net-_U1-Pad11_ zener		
U18  GNDPWR Net-_U1-Pad12_ zener		
U21  Net-_Q13-Pad2_ Net-_U1-Pad12_ zener		
U20  Net-_Q13-Pad2_ Net-_U1-Pad11_ zener		
D3  Net-_D3-Pad1_ GNDPWR eSim_Diode		
C3  Net-_C3-Pad1_ Net-_C3-Pad2_ 10pF		
R17  Net-_C3-Pad1_ Net-_Q15-Pad2_ 1.5k		
R19  Net-_C3-Pad1_ Net-_Q15-Pad1_ 3k		
Q15  Net-_Q15-Pad1_ Net-_Q15-Pad2_ GNDPWR eSim_NPN		
Q18  Net-_C3-Pad2_ Net-_C3-Pad1_ GNDPWR eSim_NPN		
U22  Net-_R20-Pad2_ Net-_Q14-Pad1_ zener		
R20  Net-_C3-Pad2_ Net-_R20-Pad2_ 5k		
Q17  Net-_Q16-Pad1_ Net-_Q16-Pad3_ Net-_C3-Pad2_ eSim_NPN		
U19  Net-_Q13-Pad2_ Net-_U1-Pad10_ zener		
R8  Net-_R1-Pad1_ Net-_Q7-Pad2_ 20k		
R9  Net-_R1-Pad1_ Net-_Q7-Pad1_ 10k		
Q7  Net-_Q7-Pad1_ Net-_Q7-Pad2_ Net-_D2-Pad1_ eSim_NPN		
Q8  Net-_Q10-Pad2_ Net-_Q7-Pad1_ Net-_C2-Pad1_ eSim_NPN		
Q10  Net-_Q10-Pad1_ Net-_Q10-Pad2_ Net-_Q10-Pad3_ eSim_NPN		
R11  Net-_R1-Pad1_ Net-_Q10-Pad2_ 8k		
R14  Net-_R1-Pad1_ Net-_Q10-Pad1_ 120		
U8  GNDPWR Net-_U1-Pad4_ zener		
U10  GNDPWR Net-_U1-Pad5_ zener		
U11  GNDPWR Net-_U1-Pad6_ zener		
U14  Net-_Q7-Pad2_ Net-_U1-Pad6_ zener		
U13  Net-_Q7-Pad2_ Net-_U1-Pad5_ zener		
D2  Net-_D2-Pad1_ GNDPWR eSim_Diode		
C2  Net-_C2-Pad1_ Net-_C2-Pad2_ 10pF		
R10  Net-_C2-Pad1_ Net-_Q9-Pad2_ 1.5k		
R12  Net-_C2-Pad1_ Net-_Q9-Pad1_ 3k		
Q9  Net-_Q9-Pad1_ Net-_Q9-Pad2_ GNDPWR eSim_NPN		
Q12  Net-_C2-Pad2_ Net-_C2-Pad1_ GNDPWR eSim_NPN		
U15  Net-_R13-Pad2_ Net-_Q10-Pad2_ zener		
R13  Net-_C2-Pad2_ Net-_R13-Pad2_ 5k		
Q11  Net-_Q10-Pad1_ Net-_Q10-Pad3_ Net-_C2-Pad2_ eSim_NPN		
U12  Net-_Q7-Pad2_ Net-_U1-Pad4_ zener		

.end
